US04045451
5-Chloro-2-(methylthio)-3(2H)-benzofuranone
5-Chloro-2-hydroxy-1-[(methylsulfinyl)acetyl]benzene (6.0 g) and trifluoroacetic acid (6 g) are refluxed in benzene (50 ml) for one hour under nitrogen. The solvent is removed under reduced pressure to give a yellow oil, which crystallizes on standing. Recrystallization from ethanol gives white crystals. (3.0 g 54%) m.p. 76°-78° C.

reactant | 5-Chloro-2-hydroxy-1-[(methylsulfinyl)acetyl]benzene | 6.0 g | ClC=1C=CC(=C(C1)C(CS(=O)C)=O)O | C9H9ClO3S
reactant | trifluoroacetic acid | 6 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 5-Chloro-2-(methylthio)-3(2H)-benzofuranone | ClC=1C=CC2=C(C(C(O2)SC)=O)C1 | C9H7ClO2S
